US04305948
D-1. 3-Amino-5-(4-pyridinyl)-2(1H)pyridinone
D-12. 3-Amino-1,6-diethyl-5-(4-pyridinyl)-2(1H)pyridinone, using N-hydroxy-1,6-diethyl-1,2-dihydro-2-oxo-5-(4-pyridinyl)nicotinimidamide.

reactant | 3-Amino-1,6-diethyl-5-(4-pyridinyl)-2(1H)pyridinone | NC=1C(N(C(=C(C1)C1=CC=NC=C1)CC)CC)=O | C14H17N3O
reactant | N-hydroxy-1,6-diethyl-1,2-dihydro-2-oxo-5-(4-pyridinyl)nicotinimidamide | ONC(C=1C(N(C(=C(C1)C1=CC=NC=C1)CC)CC)=O)=N | C15H18N4O2
product | 3-Amino-5-(4-pyridinyl)-2(1H)pyridinone | NC=1C(NC=C(C1)C1=CC=NC=C1)=O | C10H9N3O
